datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C+:11](C)[C:62](C)=[CH2:63])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20"
"CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([N:10]2C(CC3=CC=CC=C3)C[O:62][C:11]2=[O:12])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([P:10](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>COC1=CC=C([P+:10](C2=CC=C(OC)C=C2)(C2=CC=C(OC)C=C2)[C:20]2(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]2=[O:33])C=C1 10=20;20,21=21,22;22,23=23"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C@@H]1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44].O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][S:20]C(F)(F)F)=[CH:62]1 10=20;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O:12][C:11]2=[CH:10]CCC2)C=C1>>C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O+:12]=[C:11]2CCC[CH:10]2[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CC(C)(C)[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CC1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH2:10][C+:11]2CCCCCC2)[C:34]([N+](=O)[O-])=[CH:33]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[F:20].C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"C[Si:62](C)(C)[Si:11]([H:10])([Si:72](C)(C)C)[Si:82](C)(C)C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[Si:62](C)(C)[Si+:11]([Si:72](C)(C)C)[Si:82](C)(C)C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:10]1=[C:11]([O:12][Si:63](C)(C)C)[O:72]CC1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2(C)CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
